US08048887B2
2-(4-Fluorophenyl)-3-(methylcarbamoyl)-6-(N-(methylsulfonyl)methylsulfonamido)benzofuran-5-yl trifluoromethanesulfonate
Methanesulfonyl chloride (146 μL, 1.873 mmol) was added to a stirring solution of 6-amino-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate (270 mg, 0.624 mmol) and DIEA (500 μL, 2.86 mmol) in DCM (6.3 mL) at 25° C. It was allowed to stir for 1 hour and then diluted with EtOAc and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated. It was purified on silica gel (BIOTAGE®, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the titled compound (300 mg, 82%). LC-MS retention time: 1.49 min; m/z (MH+): 589. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | Methanesulfonyl chloride | 1.873 mmol, 146 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 6-amino-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate | 0.624 mmol, 270 mg | FC(S(=O)(=O)OC=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N)(F)F | C17H12F4N2O5S
reactant | DIEA | 2.86 mmol, 500 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 6.3 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-Fluorophenyl)-3-(methylcarbamoyl)-6-(N-(methylsulfonyl)methylsulfonamido)benzofuran-5-yl trifluoromethanesulfonate | 300 mg, 82% | FC(S(=O)(=O)OC=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)S(=O)(=O)C)(F)F | C19H16F4N2O9S3
